US05162345
(b) (E)-3-(2-Formylphenyl)-2-methyl-2-propenoic acid 1,1-dimethylethyl ester
From 2-(triphenylphosphoranylidene)propanoic acid 1,1-dimethylethyl ester and ortho phthalaldehyde

reactant | 2-(triphenylphosphoranylidene)propanoic acid 1,1-dimethylethyl ester | CC(C)(C)OC(C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H27O2P
reactant | ortho phthalaldehyde | C=1C=CC(=C(C1)C=O)C=O | C8H6O2
product | (E)-3-(2-Formylphenyl)-2-methyl-2-propenoic acid 1,1-dimethylethyl ester | CC(C)(C)OC(\C(=C\C1=C(C=CC=C1)C=O)\C)=O | C15H18O3
